US06043286
Preparation of 2-hydroxy-3-(2-trifluoromethylpropyl)-1,4-naphthoquinone
2-acetyloxynaphthalene-1,4-dione (1.24 g) and 3-trifluoromethylbutanoic acid (1.08 g) were reacted using the method as descibed in Example 3 yielding the title compound (353 mg) (mp 168° C.). This compound is listed as compound 11 in the Tables below.

reactant | 2-acetyloxynaphthalene-1,4-dione | 1.24 g | C(C)(=O)OC=1C(C2=CC=CC=C2C(C1)=O)=O | C12H8O4
reactant | 3-trifluoromethylbutanoic acid | 1.08 g | FC(C(CC(=O)O)C)(F)F | C5H7F3O2
product | 2-hydroxy-3-(2-trifluoromethylpropyl)-1,4-naphthoquinone | 353 mg | OC=1C(C2=CC=CC=C2C(C1CC(C)C(F)(F)F)=O)=O | C14H11F3O3
